### PR TITLE
Folding preserves block relative distance balls (Claim 4.22 WHIR)

### PR DESCRIPTION
**Pull request by ElijahVlasov**

### CODE REVIEW

**Review by alexanderlhicks — COMMENTED** [review]
> **AI-generated review.** This review was produced by Codex and has not been written by a human reviewer. Findings were validated at exact head `b0e333074acbf895a40d242741378057ff1e7715` using an isolated build, exact-head GitHub CI, Lean axiom audits, direct evaluation of the fold formula, and comparison with the paper.

**Conclusion: changes are required; this draft cannot merge in its current form.** The deterministic block-distance contraction is useful, and the four advertised Claim-4.22 declarations are axiom-clean when imported narrowly. However, the umbrella build fails, the PR adds a new false `sorry`-backed theorem, and the final ball statement does not have WHIR Claim 4.22's code parameters.

**Validation performed**

- `lake build ArkLib`/`./scripts/validate.sh` reached 4,050 preceding targets and then failed because the environment already contains `BlockRelDistance.disagreementSet`. GitHub's exact-head build independently reports the same duplicate declaration.
- Narrow `#print axioms` checks on `folding_contracts_block_distance`, `folding_contracts_block_rel_distance`, `folding_block_rel_ball`, and `folding_preserves_block_balls` reported no `sorryAx`; a separate newly added `hammDist_foldWord_foldWord` is closed by `sorry`.
- The Hamming lemma was falsified directly from this PR's own `foldWord_k_1`: for `n = 2`, `α = 0`, zero `f`, and `g` differing at one index in one fold pair over any valid odd-characteristic four-point domain (e.g. `F_5`), source Hamming distance is 1 and folded Hamming distance is 1, so the stated conclusion is `2 ≤ 1`. Mathlib defines `hammingDist` as the cardinality of disagreeing indices, so there is no normalization that could rescue the inequality.
- Compared the ball statement with [WHIR Claim 4.22, pp. 29–30](https://eprint.iacr.org/2024/1586): the paper maps `RS[F,L,m]` to `RS[F,L^(2),m-1]`; it does not identify `m` with domain log-size `n`, map `n` to `n/2`, or assume `2 ∣ n`.

**Required outcome**

Rebuild this as a narrow Claim-4.22 change on #603: reuse its canonical block-distance module, remove the false Hamming lemma and spurious evenness condition, and quantify an independent code parameter `m` with source `smoothCode ω m` and target `smoothCode (ω.subdomain 1) (m-1)`.

File: ArkLib/Data/CodingTheory/ProximityGap/Folding.lean [hunk 1]
```diff
@@ -262,6 +232,55 @@ theorem foldWord_k_1 [NeZero n] {i : Fin (2 ^ (n - 1))} {α : F} :
...
+theorem foldWord_k_1' [NeZero n] {α : F} :
+  foldWord domain f 1 α = fun i ↦
+    let x : domain := CosetFftDomain.twoNthRoot (i := 1)
+        ⟨domain.subdomain 1 i, by simp⟩
+    let i := domain.log x
+    let i' := domain.log ⟨-x.1, by obtain ⟨x, hx⟩ := x; simpa using hx⟩
+    ((f i + f i') / 2) + α * ((f i - f i') / (2 * x)) := by
+  aesop (add simp [foldWord_k_1])
+
+lemma hammDist_foldWord_foldWord [nz : NeZero n] (hn : 2 ∣ n)
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding.lean]: **AI-generated inline feedback — correctness/trust blocker.** This statement is false as well as being closed by a new `sorry`. Validation: use `n = 2`, `α = 0`, `f = 0`, and let `g` differ from `f` at exactly one member of one binary fold pair over an odd-characteristic four-point domain (for example `F_5`). By `foldWord_k_1` immediately above, that pair's folded value changes by `1/2`, while every other output remains equal. Hence `Δ₀(f,g)=1` and `Δ₀(fold f,fold g)=1`, making the conclusion `2 ≤ 1`; `2 ∣ n` is satisfied. [WHIR Claim 4.22](https://eprint.iacr.org/2024/1586) needs block-distance contraction, not this raw Hamming claim. Please remove this lemma rather than trying to prove it.

File: ArkLib/Data/CodingTheory/Basic/BlockRelDistance.lean [hunk 2]
```diff
@@ -0,0 +1,327 @@
...
+
+variable {F : Type} [Field F] [DecidableEq F]
+         {n k : ℕ}
+         {φ : SmoothCosetFftDomain n F}
+         {f g : Fin (2 ^ n) → F}
+
+/-- Let C be a smooth ReedSolomon code `C = RS[F, ι^(2ⁱ), φ', m]` and `f,g : ι^(2ⁱ) → F`, then
+  the (i,k)-wise block relative distance is defined as
+    Δᵣ(i, k, f, S', φ', g) = |{z ∈ ι ^ 2^k : ∃ y ∈ Block(i,k,S',φ',z) f(y) ≠ g(y)}| / |ι^(2^k)|. -/
+def disagreementSet
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/BlockRelDistance.lean:42]: **AI-generated inline feedback — reproducible build blocker.** This duplicates `BlockRelDistance.disagreementSet` already imported from `ProofSystem/Whir/BlockRelDistance.lean`. Both isolated `lake build ArkLib` and the exact GitHub build stop with the same environment-already-contains error. Please rebase on #603 and import its canonical Data-layer declaration instead of introducing a second definition.

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean [hunk 3]
```diff
@@ -0,0 +1,90 @@
...
+  have := Fintype.ofFinite F
+  have : n - 1 - (k - 1) = n - k := by omega
+  aesop
+    (add simp blockRelDistance)
+    (add unsafe folding_contracts_block_distance)
+    (add safe (by field_simp))
+
+lemma folding_block_rel_ball [NeZero n]
+  {α : F} {δ : ℝ≥0} (hk : 1 ≤ k) (hkn : k ≤ n) (hn_dvd : 2 ∣ n) {u : Word F (Fin (2 ^ n))}
+  (hu : u ∈ Λ𞁒(code (ω : Fin (2 ^ n) ↪ F) n, k, ω, f, δ)) :
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean]: **AI-generated inline feedback — paper fidelity (blocking).** Here `n` is the log-size of the evaluation domain, but it is also used as the RS degree parameter, and line 68 changes the target to `n / 2`. I checked [WHIR Claim 4.22, pp. 29–30](https://eprint.iacr.org/2024/1586): one fold maps `RS[F,L,m]` (ordinary degree bound `2^m`) to `RS[F,L^(2),m-1]` (bound `2^(m-1)`) for an independent `m`. Please quantify `m` separately and state this using `smoothCode ω m` / `smoothCode (ω.subdomain 1) (m-1)`, relying on the corrected Claim-4.15 bridge.

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean [hunk 4]
```diff
@@ -0,0 +1,90 @@
...
+open CosetFftDomain CosetFftDomainClass
+open BlockRelDistance
+
+variable {F : Type} [Field F] [Finite F] [DecidableEq F]
+variable {n k : ℕ}
+variable {ω : SmoothCosetFftDomain n F}
+variable {f : Word F (Fin (2 ^ n))}
+
+lemma folding_contracts_block_distance [NeZero n]
+  {α : F} (hk : 1 ≤ k) (hkn : k ≤ n) (hn_dvd : 2 ∣ n)
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean]: **AI-generated inline feedback — unnecessary hypothesis.** I checked the proof body: `hn_dvd : 2 ∣ n` is unused, and no such restriction appears in WHIR Claim 4.22. Please remove it from both metric-contraction lemmas. The public `[NeZero n]` can also be derived locally from `1 ≤ k` and `k ≤ n`, avoiding another redundant caller obligation.

File: ArkLib/Data/CodingTheory/Basic/BlockRelDistance.lean (hunk 2 above)
Comment (ElijahVlasov) [reply ArkLib/Data/CodingTheory/Basic/BlockRelDistance.lean:42]: No longer applicable

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean (hunk 3 above)
Comment (ElijahVlasov) [reply ArkLib/Data/CodingTheory/ProximityGap/Folding/ListDecodability.lean]: Great catch! Fixed.

**Review by alexanderlhicks — APPROVED** [review]
